reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]([N-:4][H:12])=[C:5]([O:6][H:9])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])[H:10],96.87487275899478
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])=[C:4]([C:5](=[O:6])[H:12])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],67.1729657350471
[C-:3](=[O+:4][C:5](=[O:6])[H:14])[H:13].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],8.987091067063304
[C:2](=[C:3]([H:9])[H:10])([H:7])[H:8].[C:4](=[O:5])([H:11])[H:12].[O:1]([H:6])[H:13]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],41.5623099053837
[C:1](/[C:2](=[C:4](\[C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],53.261969096338206
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C@:6]1([O:7][H:8])[H:13],79.197024085547
[O:1]([C:2]([C:3](=[C:5]=[C:6]([O:4][H:11])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],70.65643323387783
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1](/[C:2](=[N:3]/[H:11])[H:9])([H:6])([H:7])[H:8].[H:10][H:12],82.8929712005496
[C:1]([C:2](=[C:3]([H:11])[H:13])[O:4][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],83.60043116315609
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([H:11])[H:12])([H:8])[H:10].[C:4](=[O:5])([O:6][C:7]([H:13])([H:14])[H:15])[H:9],83.9519212415977
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:11])[H:18])([H:8])([H:9])[H:10].[N:4]([C:5]([H:15])([H:16])[H:17])=[C:6]=[O:7]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],80.92428010290612
[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]=[C:5]([C:6]([H:12])([H:13])[H:14])[H:10])[H:11])([H:7])([H:8])[H:9],74.1836909500059
[C:1]([C:2](=[C:3]([H:10])[H:11])[H:8])([H:4])([H:5])[H:7].[H:6][H:9]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6],84.0469296952218
[C:1]1([H:7])([H:9])[C@:2]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[O:3]1>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],70.1150379339241
[N:1]#[C:2][C@:6]([O:5][C:4](=[O:3])[H:9])([O:7][H:8])[H:10]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],54.476243551159484
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3][N:5]([C:4]([H:9])([H:10])[H:11])[H:12])([H:7])[H:8])[H:6],67.2105035565595
[C:1](/[C:2](=[C:3](\[O:4][H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],58.111465969438534
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[C:4]([H:14])([H:15])[H:16])[H:13])[H:12])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:11])[H:18])\[H:17],61.711647948862286
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]12[C:5]([H:15])([H:16])[C:6]2=[C:7]([H:14])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],92.11689835583041
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[N:3]([C:4]([H:12])([H:13])[H:14])[C@@:5]1([O:6][H:8])[H:15]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],65.79422185373389
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([O:4][H:15])[C@:5]([C:6]([H:12])([H:13])[H:14])([H:11])[O:7]1)([H:8])([H:9])[H:10],54.6649111789001
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[H:15][H:16].[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],82.92179663712979
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C:6](=[O:7])([H:12])[H:13].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1=[O:5])[H:8],78.5027014463502
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:6]([C:5]([C:4](=[C:3]([H:12])[H:13])[H:14])([H:15])[H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10],93.68990842117992
